US03991116
Two and six-tenths grams (.01 mole) of 2,6-dinitro-4-t-butylchlorobenzene was reacted with 3.1 grams of 40% aqueous solution of methylamine in 50 ml. ethanol. The temperature was slowly increased as follows: 30° C for 1 hour; 40° C for 1 hour; 50° C for 1 hour, then 80° C for 5 hours. When the reaction was complete about 100 ml. H2O was added, precipitating the product. This was filtered, washed with portions of H2O and upon recrystallization from ethanol yielded 2.5 grams of N-methyl-2,6-dinitro-4-t-butylaniline as orange needles melting at 129°-130° C.

reactant | 2,6-dinitro-4-t-butylchlorobenzene | .01 mole | [N+](=O)([O-])C1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])Cl | C10H11ClN2O4
reactant | methylamine | CN | CH5N
reactant | ethanol | C(C)O | C2H6O
solvent | H2O | O | H2O
product | N-methyl-2,6-dinitro-4-t-butylaniline | 2.5 grams | CNC1=C(C=C(C=C1[N+](=O)[O-])C(C)(C)C)[N+](=O)[O-] | C11H15N3O4
